US05635527
3-(4-Hydroxyphenyl)propionic acid (1.36 g, 8.18 mmol) and methyl iodide (1.20 ml, 19.3 mmol) were dissolved in N,N-dimethylformamide (20 ml) and potassium carbonate (3.40 g, 24.6 mmol) was added. The mixture was stirred at 50°-60° C. for 4 hours and at room temperature for 14 hours. The reaction mixture was filtrated and the filtrate was added to saturated brine (1 00 ml) and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate. After filtration, low boiling matters were distilled away from the filtrate under reduced pressure and the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=4/1) to give 1.35 g of methyl 3-(4-methoxyphenyl)propionate as a colorless solid (85%). This solid (1.30 g, 6.69 mmol) was dissolved in tetrahydrofuran (10 ml) and a 1N aqueous sodium hydroxide solution (7.0 ml, 7.0 mmol) was added. The mixture was stirred at room temperature for 2 hours. 1N Hydrochloric acid was added to the reaction mixture to adjust its pH to 2-3, and the resulting precipitate was collected by filtration and washed with water to give 1.11 g of 3-(4-methoxyphenyl)propionic acid as a colorless solid (92%).

reactant | 3-(4-Hydroxyphenyl)propionic acid | 8.18 mmol, 1.36 g | OC1=CC=C(C=C1)CCC(=O)O | C9H10O3
reactant | methyl iodide | 19.3 mmol, 1.20 ml | CI | CH3I
reactant | potassium carbonate | 24.6 mmol, 3.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | methyl 3-(4-methoxyphenyl)propionate | 1.35 g, 85% | COC1=CC=C(C=C1)CCC(=O)OC | C11H14O3
